US05780633
To a solution of 1-(R)-(4-isobutylphenyl)butanol (1.13 g), methyl 4-hydroxybenzoate (917 mg) and triphenylphosphine (1.58 g) in toluene (40 ml) and tetrahydrofuran (10 ml) was added diethyl azodicarboxylate (0.95 ml) at -20° C. The mixture was stirred at -15°--20° C. for 1.5 hours and then added water (0.5 ml). The mixture was evaporated, dissolved in a mixture of n-hexane and ethyl acetate (4:1), filtered off and evaporated. The residue was chromatographed on silica gel eluting with a mixture of n-hexane and dichloromethane (1:1) to give methyl 4-[1-(S)-(4-isobutylphenyl)butoxy]benzoate as an oil (1.48 g).

reactant | 1-(R)-(4-isobutylphenyl)butanol | 1.13 g | C(C(C)C)C1=CC=C(C=C1)[C@@H](CCC)O | C14H22O
reactant | methyl 4-hydroxybenzoate | 917 mg | OC1=CC=C(C(=O)OC)C=C1 | C8H8O3
reactant | triphenylphosphine | 1.58 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.95 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | water | 0.5 ml | O | H2O
product | methyl 4-[1-(S)-(4-isobutylphenyl)butoxy]benzoate | 1.48 g | C(C(C)C)C1=CC=C(C=C1)[C@H](CCC)OC1=CC=C(C(=O)OC)C=C1 | C22H28O3
